US05017382
Polymer Incorporating 16,16 dimethyl PGE2 methyl ester
2 mg 3H labelled 16,16-dimethyl PGE2, methyl ester Ono 802 ex May and Baker is dissolved in 0.67 g ethanol C2H5OH, 0.67 g chloroform CHCl3 is added. A slice of the polymer 1 mm×11 mm×22 mm weighing 0.2678 g is added to the Ono solution in a polythene bag which is then sealed. After 6 hours swelling the bag is cut open and the swollen gel is weighed. Uptake 0.97 g solution i.e. 1.45 mg Ono. The sample is then dried and the in vitro release of Ono into phosphate buffer pH 7.4 at 37° is measured as in Ex. 12. The half life of Ono in this sample is 6.3 hours. The results for 3 different thicknesses of polymer sample are given to the Table.

reactant | 16,16-dimethyl PGE2 | CCCCC(C)(C)[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O)O | C22H36O5
reactant | chloroform CHCl3 | 0.67 g | C(Cl)(Cl)Cl.C(Cl)(Cl)Cl | 2CHCl3
product | 16,16 dimethyl PGE2 methyl ester | CCCCC(C)(C)[C@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)OC)O)O | C23H38O5
